US09227971B2
To a solution of methyl hydrazinecarbimidothioate hydroiodide (0.100 g, 0.429 mmol) in MeOH (2 mL) was added morpholine (0.075 mL, 0.858 mmol) and refluxed overnight. Reaction was cool to RT and concentrated to get morpholine-4-carboximidhydrazide as a white solid in quantitative yield.

reactant | methyl hydrazinecarbimidothioate hydroiodide | 0.429 mmol, 0.100 g | I.N(N)C(=N)SC
reactant | morpholine | 0.858 mmol, 0.075 mL | N1CCOCC1 | C4H9NO
solvent | MeOH | 2 mL | CO | CH4O
product | morpholine-4-carboximidhydrazide | quantitative yield | N1(CCOCC1)C(NN)=N | C5H12N4O
